2181-01-30 07:23:00 Physician Resident Progress Note
Chief Complaint: 53 y.o. male with hypoxemia, respiratory failure
   24 Hour Events:
 INVASIVE VENTILATION - START [**2181-1-29**] 08:15 AM
 MULTI LUMEN - START [**2181-1-29**] 09:05 AM
 ARTERIAL LINE - START [**2181-1-29**] 09:30 AM
 SPUTUM CULTURE - At [**2181-1-29**] 10:30 AM
 BLOOD CULTURED - At [**2181-1-29**] 05:00 PM
 URINE CULTURE - At [**2181-1-29**] 05:00 PM
 BLOOD CULTURED - At [**2181-1-29**] 05:15 PM
 FEVER - 101.5
F - [**2181-1-29**] 04:00 PM
   -Rapid test came back with influenza B
   -Put on linezolid and zanamavir (for MRSA and flu) vanco d/c'd
   -Will d/c linezolid if cultures negative
   -Got R IJ CVL
   -Got 1L NS for SBP in 80s with good response
   -Had to change zanamavir to oseltamivir b/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] not available in po
   (just inhaled).  OK'd the change with ID.
   -UCx sent
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-29**] 10:00 AM
   Azithromycin - [**2181-1-29**] 08:00 PM
   Linezolid - [**2181-1-30**] 12:23 AM
   Cefipime - [**2181-1-30**] 06:13 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2181-1-29**] 03:00 PM
   Fentanyl - [**2181-1-29**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2181-1-30**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-1-30**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.3
C (99.1
   HR: 92 (74 - 121) bpm
   BP: 124/65(85) {82/43(56) - 145/73(96)} mmHg
   RR: 22 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 6 (6 - 342)mmHg
   Total In:
                                                                  4,792 mL
                                                                    444 mL
   PO:
   TF:
   IVF:
                                                                  4,732 mL
                                                                    444 mL
   Blood products:
   Total out:
                                                                    985 mL
                                                                    305 mL
   Urine:
                                                                    985 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,807 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 74
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/41/81.[**Numeric Identifier 252**]/22/-1
   Ve: 9.8 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: Thin, appears unwell
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   253 K/uL
   9.7 g/dL
   96 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   16 mg/dL
   105 mEq/L
   134 mEq/L
   28.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2181-1-29**]  06:07 AM
                             [**2181-1-29**]  06:36 AM
                             [**2181-1-29**]  08:57 AM
                             [**2181-1-29**]  10:07 AM
                             [**2181-1-29**]  10:26 AM
                             [**2181-1-29**]  03:08 PM
                             [**2181-1-29**]  11:32 PM
                             [**2181-1-30**]  03:19 AM
                             [**2181-1-30**]  04:01 AM
   WBC
   12.6
   12.3
   Hct
   28.5
   28.9
   Plt
   250
   253
   Cr
   0.9
   1.0
   TCO2
   26
   25
   26
   26
   24
   21
   25
   Glucose
   117
   96
   Other labs: PT / PTT / INR:12.5/47.7/1.1, ALT / AST:31/29, Alk Phos / T
   Bili:89/0.8, Differential-Neuts:80.5 %, Lymph:11.7 %, Mono:6.6 %,
   Eos:0.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:162 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Chief Complaint: Respiratory Distress, hypoxemia
   24 Hour Events:
 INVASIVE VENTILATION - START [**2181-1-29**] 08:15 AM
 MULTI LUMEN - START [**2181-1-29**] 09:05 AM
 ARTERIAL LINE - START [**2181-1-29**] 09:30 AM
 SPUTUM CULTURE - At [**2181-1-29**] 10:30 AM
 BLOOD CULTURED - At [**2181-1-29**] 05:00 PM
 URINE CULTURE - At [**2181-1-29**] 05:00 PM
 BLOOD CULTURED - At [**2181-1-29**] 05:15 PM
 FEVER - 101.5
F - [**2181-1-29**] 04:00 PM
   -Rapid flu test came back with influenza B
   -Put on linezolid and oseltamavir (for MRSA and flu) vanco d/c'd
   -Will d/c linezolid when sputum cultures negative
   -Got R IJ CVL
   -Got 1L NS for SBP in 80s with good response
   -Had to change zanamavir to oseltamivir b/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] not available in po
   (just inhaled).  OK'd the change with ID.
   -UCx sent
   Patient unable to provide history: intubated
                   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-29**] 10:00 AM
   Azithromycin - [**2181-1-29**] 08:00 PM
   Linezolid - [**2181-1-30**] 12:23 AM
   Cefipime - [**2181-1-30**] 06:13 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2181-1-29**] 03:00 PM
   Fentanyl - [**2181-1-29**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2181-1-30**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-30**] 07:17 AM
   Vital signs             Hemodynamic monitoring Fluid balance       24
   hours                Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.3
C (99.1
   HR: 92 (74 - 121) bpm
   BP: 124/65(85) {82/43(56) - 145/73(96)} mmHg
   RR: 22 (18 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                    CVP: 6 (6 - 342)mmHg
                   Total In:  4,792 mL               443 mL
                                   PO:
                                   TF:
                                   IVF:         4,732 mL               443
   mL
                                   Blood products:
                                   Total out:               985 mL  305 mL
                                   Urine:     985 mL  305 mL
                                   NG:
                                   Stool:
                                   Drains:
                                   Balance:                3,807
   mL               138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 74                PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.37/41/81.[**Numeric Identifier 252**]/22/-1
   Ve: 9.8 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: Appears unwell
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
                   [**2181-1-29**]  06:07 AM             [**2181-1-29**]  06:36
   AM             [**2181-1-29**]  08:57 AM             [**2181-1-29**]  10:07
   AM             [**2181-1-29**]  10:26 AM               [**2181-1-29**]  03:08
   PM             [**2181-1-29**]  11:32 PM             [**2181-1-30**]  03:19
   AM             [**2181-1-30**]  04:01 AM
   WBC
   12.6
   12.3
   Hct
   28.5
   28.9
   Plt
   250
   253
   Cr
   0.9
   1.0
   TCO2     26           25           26
   26           24           21                           25
   Glucose
   117
   96
   Other labs: PT / PTT / INR:12.5/47.7/1.1, ALT / AST:31/29, Alk Phos / T
   Bili:89/0.8, Differential-Neuts:80.5 %, Lymph:11.7 %, Mono:6.6 %,
   Eos:0.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:162 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   53 yo male with Hodgkin's disease now admitted with influenza and who
   has evolved significant worsening of hypoxemic respiratory failure
   across the admission.  This is with evolution of bilateral and patchy
   consolidations consistent with superinfection of initial viral insult.
   This is suggested by evolution of cough/plegm/feve/infiltrate.
   7.46/34/47 was repeat ABG following arrival in ICU.  Patient was
   intubated with severe hypoxemic respiratory failure likley related to
   bilateral and dependent consolidations with likley bacterial
   superinfection of previous viral pneumonitis.
   Hypoxemic Respiratory Failure-
   -A/C
will maintain PEEP at 10-12
   -Continue FIO2=1.0
   -Will need to replace volume with patient currently hypotensive
   -PIP=30, Pplat-27 consistent with presentation
   -Wean FIO2 as possible
   -Advance ETT
   -Will place A-line
   Pneumonia-
   -Linezolid/Cefepime/Axithro
   -Sputum GS C+S
   -Follow up culture results
   -Urine Legionella pending
   -Bronch and BAL if patient improved stability to tolerate procedure or
   with inadequate sampling
   Sepsis-
   -Patient with significant hypotension with intubation and leading to
   respiratory failure
   -Will need CVL and volume replacement
   -Follow up cultures results
   -Will titrate therapy to stability of blood pressure.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-29**] 06:28 AM
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-29**] 06:28 AM
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-01-30 11:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2181-1-29**] 08:15 AM
 MULTI LUMEN - START [**2181-1-29**] 09:05 AM
 ARTERIAL LINE - START [**2181-1-29**] 09:30 AM
 SPUTUM CULTURE - At [**2181-1-29**] 10:30 AM
 BLOOD CULTURED - At [**2181-1-29**] 05:00 PM
 URINE CULTURE - At [**2181-1-29**] 05:00 PM
 BLOOD CULTURED - At [**2181-1-29**] 05:15 PM
 FEVER - 101.5
F - [**2181-1-29**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-29**] 10:00 AM
   Azithromycin - [**2181-1-29**] 08:00 PM
   Cefipime - [**2181-1-30**] 06:13 AM
   Linezolid - [**2181-1-30**] 11:28 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2181-1-29**] 03:00 PM
   Midazolam (Versed) - [**2181-1-29**] 03:00 PM
   Lansoprazole (Prevacid) - [**2181-1-30**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2181-1-30**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-30**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.3
C (100.9
   HR: 86 (74 - 92) bpm
   BP: 127/64(84) {82/43(56) - 145/73(96)} mmHg
   RR: 18 (18 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 5 (4 - 342)mmHg
   Total In:
                                                                  4,792 mL
                                                                    772 mL
   PO:
   TF:
   IVF:
                                                                  4,732 mL
                                                                    772 mL
   Blood products:
   Total out:
                                                                    985 mL
                                                                    495 mL
   Urine:
                                                                    985 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,807 mL
                                                                    277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 74
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/41/81.[**Numeric Identifier 252**]/22/-1
   Ve: 8.3 L/min
   PaO2 / FiO2: 135
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   253 K/uL
   96 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   16 mg/dL
   105 mEq/L
   134 mEq/L
   28.9 %
   12.3 K/uL
        [image002.jpg]
                             [**2181-1-29**]  06:07 AM
                             [**2181-1-29**]  06:36 AM
                             [**2181-1-29**]  08:57 AM
                             [**2181-1-29**]  10:07 AM
                             [**2181-1-29**]  10:26 AM
                             [**2181-1-29**]  03:08 PM
                             [**2181-1-29**]  11:32 PM
                             [**2181-1-30**]  03:19 AM
                             [**2181-1-30**]  04:01 AM
   WBC
   12.6
   12.3
   Hct
   28.5
   28.9
   Plt
   250
   253
   Cr
   0.9
   1.0
   TCO2
   26
   25
   26
   26
   24
   21
   25
   Glucose
   117
   96
   Other labs: PT / PTT / INR:12.5/47.7/1.1, ALT / AST:31/29, Alk Phos / T
   Bili:89/0.8, Differential-Neuts:80.5 %, Lymph:11.7 %, Mono:6.6 %,
   Eos:0.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:162 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR - Bilateral infiltrates concerning for ARDS.  CL needs to
   be pulled back 3cm.
   Microbiology: Influenza B +, sputum culture negative to date.
   Assessment and Plan
   53 yo male with Hodgkin's disease now admitted with influenza and who
   has evolved significant worsening of hypoxemic respiratory failure
   across the admission.  This is with evolution of bilateral and patchy
   consolidations consistent with superinfection of initial viral insult.
   This is suggested by evolution of cough/plegm/feve/infiltrate.
   7.46/34/47 was repeat ABG following arrival in ICU.  Patient was
   intubated with severe hypoxemic respiratory failure likley related to
   bilateral and dependent consolidations with likley bacterial
   superinfection of previous viral pneumonitis.
   Hypoxemic Respiratory Failure-
   -A/C
will maintain PEEP at 10-12
   -Continue FIO2=1.0
   -Will need to replace volume with patient currently hypotensive
   -PIP=30, Pplat-27 consistent with presentation
   -Wean FIO2 as possible
   -Advance ETT
   -Will place A-line
   Pneumonia-
   -Linezolid/Cefepime/Axithro
   -Sputum GS C+S
   -Follow up culture results
   -Urine Legionella pending
   -Bronch and BAL if patient improved stability to tolerate procedure or
   with inadequate sampling
   Sepsis-
   -Patient with significant hypotension with intubation and leading to
   respiratory failure
   -Will need CVL and volume replacement
   -Follow up cultures results
   -Will titrate therapy to stability of blood pressure.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-29**] 06:28 AM
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2181-01-31 07:44:00 Physician Resident Progress Note
Chief Complaint: Hypoxemic respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2181-1-30**] 08:45 PM
 URINE CULTURE - At [**2181-1-30**] 10:15 PM
 SPUTUM CULTURE - At [**2181-1-31**] 12:00 AM
 FEVER - 101.7
F - [**2181-1-30**] 08:00 PM
   -Put on ARDSnet protocol for ventilation given concern for ARDS
   -Febrile to 101.7, then became hypotensive to SBP's in 80's but as CVP
   in [**4-2**] range given 2L NS bolus, at that time CVP of  [**8-6**] so started on
   norepinephrine
   -Got trial of CPAP early in AM on [**2181-1-31**] for agitation and resistance
   to rate
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-29**] 10:00 AM
   Azithromycin - [**2181-1-30**] 08:56 PM
   Linezolid - [**2181-1-31**] 12:30 AM
   Cefipime - [**2181-1-31**] 05:30 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-1-30**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2181-1-30**] 04:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-31**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.2
C (98.9
   HR: 95 (75 - 101) bpm
   BP: 114/50(70) {87/43(57) - 146/79(99)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (3 - 12)mmHg
   Total In:
                                                                  3,324 mL
                                                                    655 mL
   PO:
   TF:
                                                                     60 mL
                                                                     76 mL
   IVF:
                                                                  3,179 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    570 mL
   Urine:
                                                                    940 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,384 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 504 (460 - 504) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/36/74/21/-1
   Ve: 13.6 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular:  (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : at tops of lungs)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: No C/C/E appreciated
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   293 K/uL
   9.2 g/dL
   122 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.4 mEq/L
   17 mg/dL
   103 mEq/L
   134 mEq/L
   28.1 %
   15.8 K/uL
        [image002.jpg]
                             [**2181-1-29**]  10:07 AM
                             [**2181-1-29**]  10:26 AM
                             [**2181-1-29**]  03:08 PM
                             [**2181-1-29**]  11:32 PM
                             [**2181-1-30**]  03:19 AM
                             [**2181-1-30**]  04:01 AM
                             [**2181-1-30**]  01:00 PM
                             [**2181-1-30**]  04:13 PM
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
   WBC
   12.6
   12.3
   15.8
   Hct
   28.5
   28.9
   28.1
   Plt
   [**Telephone/Fax (3) 4437**]
   Cr
   0.9
   1.0
   0.9
   TCO2
   26
   24
   21
   25
   23
   24
   23
   Glucose
   117
   96
   122
   Other labs: PT / PTT / INR:12.5/47.7/1.1, ALT / AST:66/106, Alk Phos /
   T Bili:307/1.1, Differential-Neuts:77.4 %, Lymph:12.3 %, Mono:8.9 %,
   Eos:1.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:215 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   This is a 53 year-old male with a history of hodkin's s/p BMT in 93,
   h/o pericarditis, hypothyroidism, admitted with influenza B now with
   worsening hypoxia and respiratory distress and CT concerning for
   multilobar PNA.
   1) Respiratory failure: Patient with hypoxic respiratory presumed due
   to infectious process/ ARDS.  Patient with known influenza and with
   PaO2/FiO2<200 he does meet criteria for ARDS.  Main differential is
   Post flu ARDS vs influenza with bacterial superinfection leading to
   ARDS.  The patient
s chest radiograph is worsened today with increased
   non-anatomic hazy opacity consistent with atelectasis vs effusion per
   radiology.   Nevertheless he maintains good ventilation and adequate
   oxygenation on pressure support currently.  Tidal volumes are
   relatively low (450-475) so minimal concern for barotrauma secondary to
   allowing patient to set own tidal volumes.
   -wean pressure support
   - On day 4 of linezolid (or vanc), cefepime, azithromycin.  Will plan
   to d/c azithromycin tomorrow after completion of  five day course.
   Will continue typical coverage until the patient
s final respiratory
   cultures are negative.
   -F/U cultures
   - Continue oseltamavir for influenza B
   2) SIRS/ Hypotension: Presumedly due to sepsis/SIRS.  Blood cultures
   remain negative as yet but patient was still febrile last night.
   Possibly flu vs persistent bacterial infection.  Patient received 3L NS
   for hypotension in context of low CVP
s.  Received norepinephrine for
   persistent hypotension despite CVP of 10.  Now off pressors and some
   concern LOS positive fluid balance could worsen ARDS and make weaning
   more difficult.
   -If  pressures will tolerate attempt gentle diuresis.
   -Continue broad abx coverage pending final respiratory cultures per
   above, culture if spikes
   - Broadly covered if he is septic, will continue abx per above
   -Given elevated LFT
s and increased leukocytosis will obtain RUQ u/s to
   rule out choleycystitis and look for drainable source of infection
   3) Hx of Hodgkin
s Lymphoma/pericardial disease: Particularly given
   current concern for effusion there is a possibility of post radiation
   serositis in the chest or possibility of effusion.  Will obtain ECG to
   assess voltages as patient
s clinical picture not consistent with
   tamponade (no chest pain, SOB) and have more compelling causes of
   hypotension and CXR findings.  Still if ECG abnormal or continued
   concern would obtain TTE to assess for pericarditis.
   -ECG +/- TTE as indicated.
   4) Hypothyroidism: Continue home levothyroxine.
   5)  FEN:  NPO for now, given potential for prolonged intubation will
   initiate nutrtition consult to start tube feeds
   6)  Access: 2 PIVs; right IJ (pulled back yesterday and more
   appropriately sited on follow up scans)
   7)  PPx: hep sc, ppi as outpt
   7) Code: FULL (confirmed with patient)
   8)  Dispo: ICU until respiratory status improves
   9)  Comm: With wife
   ICU [**Name (NI) 151**]
   Nutrition:
   [**Name (NI) 4438**] HN (Full) - [**2181-1-30**] 06:00 PM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-29**] 06:28 AM
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT:  Hep SC
   Stress ulcer:  PPI
   VAP:  HOB elevated, chlorhexidine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-01-31 09:39:00 Physician Attending Progress Note
Chief Complaint: ARDS
   Influenza
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2181-1-30**] 08:45 PM
 URINE CULTURE - At [**2181-1-30**] 10:15 PM
 SPUTUM CULTURE - At [**2181-1-31**] 12:00 AM
 FEVER - 101.7
F - [**2181-1-30**] 08:00 PM
   _Patient move to PSV this morning
   -Patient with hypotension requiring pressors overnight
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-29**] 10:00 AM
   Azithromycin - [**2181-1-30**] 08:56 PM
   Linezolid - [**2181-1-31**] 12:30 AM
   Cefipime - [**2181-1-31**] 05:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-1-31**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2181-1-31**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2181-1-31**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 38.6
C (101.4
   HR: 91 (75 - 101) bpm
   BP: 127/56(77) {87/43(57) - 146/79(99)} mmHg
   RR: 17 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 10 (3 - 349)mmHg
   Total In:
                                                                  3,324 mL
                                                                    716 mL
   PO:
   TF:
                                                                     60 mL
                                                                     73 mL
   IVF:
                                                                  3,179 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    675 mL
   Urine:
                                                                    940 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,384 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 504 (460 - 504) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/36/74/21/-1
   Ve: 13.6 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   293 K/uL
   122 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.4 mEq/L
   17 mg/dL
   103 mEq/L
   134 mEq/L
   28.1 %
   15.8 K/uL
        [image002.jpg]
                             [**2181-1-29**]  10:07 AM
                             [**2181-1-29**]  10:26 AM
                             [**2181-1-29**]  03:08 PM
                             [**2181-1-29**]  11:32 PM
                             [**2181-1-30**]  03:19 AM
                             [**2181-1-30**]  04:01 AM
                             [**2181-1-30**]  01:00 PM
                             [**2181-1-30**]  04:13 PM
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
   WBC
   12.6
   12.3
   15.8
   Hct
   28.5
   28.9
   28.1
   Plt
   [**Telephone/Fax (3) 4437**]
   Cr
   0.9
   1.0
   0.9
   TCO2
   26
   24
   21
   25
   23
   24
   23
   Glucose
   117
   96
   122
   Other labs: PT / PTT / INR:12.5/47.7/1.1, ALT / AST:66/106, Alk Phos /
   T Bili:307/1.1, Differential-Neuts:77.4 %, Lymph:12.3 %, Mono:8.9 %,
   Eos:1.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:215 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR-Patient with bilateral lower lung field opacities
   consistent with effusion in addition to consolidations
   Microbiology: Sputum--1+ GPC in P+C--on gram stain
   Assessment and Plan
   53 yo male admit with influenza and now with progression to ARDS and
   hypoxemic respiratory failure.  He has shown some substantial
   improvement in oxygenation and ventilation over past 24 hours.  Of note
   he has shown recurrent fever and requirement for pressor support--this
   is in the setting of elevation of AP and TA's.
   1)Respiratory Failure/ARDS-patient with substantial improvement in
   ventilation and oxygenation over the past 24 hours.  This is consistent
   with substantial improvement and in the setting of supportive care with
   lung protective strategy
he now has excellent tolerance of PSV with
   spontaneous tidal volumes in the range of 450cc.
   -Continue with PSV and wean PEEP when PO2 has stabilized
   -Will wean PSV level today
   -Will discuss influenza Rx with ID as have not been able to delive
   inhaled
   2)Sepsis--Patient with hypotension noted overnight
   -Vanco/Linezolid/Cefepime/Azithro
10 day course and 5 days for Azithro
   -Concerning worsening hypotension
   -With increased LFT
s and AP
will need to evaluate RUQ for possible
   acalculous cholecystitis
   -Follow up cultures and RUQ U/S
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -ABX as above
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -Cefepime/Azithro/Linezolid
   -Wean levophed as possible with volume replete
   ICU Care
   Nutrition: Tube Feeds to continue
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-29**] 06:28 AM
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2181-02-01 07:43:00 Physician Resident Progress Note
Chief Complaint: Hypoxia/ARDS
   24 Hour Events:
 FEVER - 102.5
F - [**2181-1-31**] 12:00 PM
   -put back on Levo in afternoon [**1-29**] hypotension then weaned back in
   evening - on 0.1 at 9p
   - ID consulted- d/c azithro and flagyl. ? Rpt Chest CT possibly in a
   couple days. Still on linezolid, cefepime, tamiflu, course still to be
   determined
   - TF were started per nutrition recs
   -d/c statin [**1-29**] elevated LFTs
   -lipase 13
   -f/u on RUQ u/s - prelims are mildly distended gallbladder with sludge,
   no secondary signs of cholecystitis, no ductal dilation, right pleural
   effusion
   -bowel regimen ordered
   -EKG and pulsus checked - no sign of pericardial disease - no TTE
   -Vent on PS [**10-4**] with FiO2 50%
   -Fungal Blood culture ordered
   - BNP 574
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-29**] 10:00 AM
   Azithromycin - [**2181-1-30**] 08:56 PM
   Metronidazole - [**2181-1-31**] 12:20 PM
   Linezolid - [**2181-1-31**] 11:01 PM
   Cefipime - [**2181-2-1**] 04:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-1-31**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2181-1-31**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-1**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.7
C (99.8
   HR: 92 (75 - 106) bpm
   BP: 111/49(67) {89/45(60) - 172/88(118)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 12 (4 - 14)mmHg
   Total In:
                                                                  2,942 mL
                                                                    487 mL
   PO:
   TF:
                                                                    167 mL
                                                                    246 mL
   IVF:
                                                                  2,445 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    440 mL
   Urine:
                                                                  1,615 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,327 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 465 (435 - 465) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.38/40/94.[**Numeric Identifier 299**]/24/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Thin, appears unwell
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   334 K/uL
   8.8 g/dL
   112 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   14 mg/dL
   103 mEq/L
   133 mEq/L
   26.6 %
   20.4 K/uL
        [image002.jpg]
                             [**2181-1-29**]  03:08 PM
                             [**2181-1-29**]  11:32 PM
                             [**2181-1-30**]  03:19 AM
                             [**2181-1-30**]  04:01 AM
                             [**2181-1-30**]  01:00 PM
                             [**2181-1-30**]  04:13 PM
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
                             [**2181-1-31**]  12:36 PM
                             [**2181-2-1**]  03:42 AM
   WBC
   12.3
   15.8
   20.4
   Hct
   28.9
   28.1
   26.6
   Plt
   [**Telephone/Fax (3) 4463**]
   Cr
   1.0
   0.9
   0.8
   TCO2
   24
   21
   25
   23
   24
   23
   25
   Glucose
   96
   122
   112
   Other labs: PT / PTT / INR:13.5/35.5/1.2, ALT / AST:67/64, Alk Phos / T
   Bili:381/0.9, Amylase / Lipase:/13, Differential-Neuts:85.9 %,
   Lymph:5.3 %, Mono:8.1 %, Eos:0.6 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:215 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   This is a 53 year-old male with a history of hodkin's s/p BMT in 93,
   h/o pericarditis, hypothyroidism, admitted with influenza B now with
   worsening hypoxia and respiratory distress and CT concerning for
   multilobar PNA.
   1) Respiratory failure: Patient with hypoxic respiratory presumed due
   to infectious process/ ARDS.  Patient with known influenza and with
   PaO2/FiO2<200 he does meet criteria for ARDS.  Main differential is
   Post flu ARDS vs influenza with bacterial superinfection leading to
   ARDS.  The patient
s chest radiograph is worsened today with increased
   non-anatomic hazy opacity consistent with atelectasis vs effusion per
   radiology.   Nevertheless he maintains good ventilation and adequate
   oxygenation on pressure support currently.  Tidal volumes are
   relatively low (450-475) so minimal concern for barotrauma secondary to
   allowing patient to set own tidal volumes.
   -wean pressure support
   - On day 4 of linezolid (or vanc), cefepime, azithromycin.  Will plan
   to d/c azithromycin tomorrow after completion of  five day course.
   Will continue typical coverage until the patient
s final respiratory
   cultures are negative.
   -F/U cultures
   - Continue oseltamavir for influenza B
   2) SIRS/ Hypotension: Presumedly due to sepsis/SIRS.  Blood cultures
   remain negative as yet but patient was still febrile last night.
   Possibly flu vs persistent bacterial infection.  Patient received 3L NS
   for hypotension in context of low CVP
s.  Received norepinephrine for
   persistent hypotension despite CVP of 10.  Now off pressors and some
   concern LOS positive fluid balance could worsen ARDS and make weaning
   more difficult.
   -If  pressures will tolerate attempt gentle diuresis.
   -Continue broad abx coverage pending final respiratory cultures per
   above, culture if spikes
   - Broadly covered if he is septic, will continue abx per above
   -Given elevated LFT
s and increased leukocytosis will obtain RUQ u/s to
   rule out choleycystitis and look for drainable source of infection
   3) Hx of Hodgkin
s Lymphoma/pericardial disease: Particularly given
   current concern for effusion there is a possibility of post radiation
   serositis in the chest or possibility of effusion.  Will obtain ECG to
   assess voltages as patient
s clinical picture not consistent with
   tamponade (no chest pain, SOB) and have more compelling causes of
   hypotension and CXR findings.  Still if ECG abnormal or continued
   concern would obtain TTE to assess for pericarditis.
   -ECG +/- TTE as indicated.
   4) Hypothyroidism: Continue home levothyroxine.
   5)  FEN:  NPO for now, given potential for prolonged intubation will
   initiate nutrtition consult to start tube feeds
   6)  Access: 2 PIVs; right IJ (pulled back yesterday and more
   appropriately sited on follow up scans)
   7)  PPx: hep sc, ppi as outpt
   7) Code: FULL (confirmed with patient)
   8)  Dispo: ICU until respiratory status improves
   9)  Comm: With wife
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2181-2-1**] 04:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-29**] 06:27 AM
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-02-01 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.5
F - [**2181-1-31**] 12:00 PM
   ID Consult--Flagyl added
   RUQ U/S with no evidence of cholecystitis
   fevers persist
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2181-1-30**] 08:56 PM
   Metronidazole - [**2181-1-31**] 12:20 PM
   Linezolid - [**2181-1-31**] 11:01 PM
   Cefipime - [**2181-2-1**] 04:50 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-1**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2181-2-1**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.2
C (99
   HR: 92 (75 - 100) bpm
   BP: 137/59(82) {89/45(60) - 172/88(118)} mmHg
   RR: 22 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 334 (4 - 334)mmHg
   Total In:
                                                                  2,942 mL
                                                                    752 mL
   PO:
   TF:
                                                                    167 mL
                                                                    389 mL
   IVF:
                                                                  2,445 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  1,615 mL
                                                                    640 mL
   Urine:
                                                                  1,615 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,327 mL
                                                                    112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (435 - 465) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.38/40/94.[**Numeric Identifier 299**]/24/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   334 K/uL
   112 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   14 mg/dL
   103 mEq/L
   133 mEq/L
   26.6 %
   20.4 K/uL
        [image002.jpg]
                             [**2181-1-29**]  03:08 PM
                             [**2181-1-29**]  11:32 PM
                             [**2181-1-30**]  03:19 AM
                             [**2181-1-30**]  04:01 AM
                             [**2181-1-30**]  01:00 PM
                             [**2181-1-30**]  04:13 PM
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
                             [**2181-1-31**]  12:36 PM
                             [**2181-2-1**]  03:42 AM
   WBC
   12.3
   15.8
   20.4
   Hct
   28.9
   28.1
   26.6
   Plt
   [**Telephone/Fax (3) 4463**]
   Cr
   1.0
   0.9
   0.8
   TCO2
   24
   21
   25
   23
   24
   23
   25
   Glucose
   96
   122
   112
   Other labs: PT / PTT / INR:13.5/35.5/1.2, ALT / AST:67/64, Alk Phos / T
   Bili:381/0.9, Amylase / Lipase:/13, Differential-Neuts:85.9 %,
   Lymph:5.3 %, Mono:8.1 %, Eos:0.6 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:215 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR__ETT and IJ catheter in good position.  He does have
   persistent and significant bilateral plural effusions and likely
   consolidations
   Microbiology: Sputum-
   [**1-29**]--S. Aureus
   Assessment and Plan
   53 yo male with admission with influenza with a history of Hodgkin
   Disease and now subsequently complicated by ARDS and hypoxemic
   respiratory failure now complicated by persistent sepsis.  He has
   continued good tolerance of PSV support with FIO2 wean oxygenation has
   remained reasonably stable.  The issue has been one of continued fevers
   and hypotension despite antibiotics in place.  In addition he has had
   significant rise in WBC count all arguing for untreated bacterial
   infection, although, cultures have been negative to date.  LFT's have
   improved in this setting and may be consistent with mild intrahepatic
   cholestasis.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -Cefepime/Linezolid
   -He has GPC
s noted in sputum and suggestion of S. Aureus involving
   pulmonary
   -Continue with ABX and raise issue of alternative coverage based up on
   culture and imaging findings.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   -would favor return to A/C support to maintain adequate ventilatory
   support if worsening
   -return to A/C support if need for further imaging needed as with
   increased sedation will be needed
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -Levophed continues
   -WBC is rising and persistent fevers seen
   -Concern for possible empyema and pulmonary cavitary lesions
   -Catheter placed in the setting of fevers and fevers have continued
   -No cultures positive
   -Sinusitis is somewhat unilikely as is relatively early in course but
   is possible
   -Pulmonary abscess is possible and of concern
   -U/S negative but intra-abdominal source is possible with focal
   collection
   -DVT is possible but will be evaluated with LENI
   -ECHO to eval for possible
   -No evidence of rash
will follow up on diff and consider possible drug
   fever
   -Will pursue further interventions as indicated based upon findings
   -No change in ABX and will pursue evaluation given hypotension, fever,
   despite antibiotics Rx
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2181-2-1**] 10:23 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-1-29**] 06:27 AM
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 70 minutes
   Patient is critically ill

2181-02-02 07:31:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, ARDS
   24 Hour Events:
 FEVER - 101.1
F - [**2181-2-1**] 09:00 PM
   -CT torso showed mildly decreased dense bilateral lower lobe
   consolidation, increase in bilateral pleural effusions, significant
   contrast reflux in esophagus concerning for high aspiration risk, but
   not abscess.
   -CT sinus wet read is paranasal sinus dz though cannot differentiate
   infection from tissue thickening
   -Patient prepped for bedside diagnostic thoracentesis but bedside
   ultrasound demonstrated less fluid than seen on CT so tap deferred
   -didn't get ECHO b/c of scheduling problem but should get on [**2-2**]
   -kept on PS [**10-4**] but put on AC for [**Female First Name (un) **] and kept on that overnight;
   put back on PS at 10/8 at 4a.m. and ABG written for 7a.m.
   -pressors stopped at 6pm
   -ID reccs -> cont oseltamavir, linezolid, cefepime; check sputum cx,
   sputum viral cx, legionella cx; send cx from TLC and peripherally if
   spikes
   Patient unable to provide history: intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2181-1-30**] 08:56 PM
   Metronidazole - [**2181-1-31**] 12:20 PM
   Linezolid - [**2181-2-2**] 12:30 AM
   Cefipime - [**2181-2-2**] 05:56 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-2**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-2**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 75 (75 - 117) bpm
   BP: 88/48(62) {85/46(60) - 198/111(140)} mmHg
   RR: 19 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 16 (13 - 334)mmHg
   Total In:
                                                                  1,855 mL
                                                                    941 mL
   PO:
   TF:
                                                                    917 mL
                                                                    382 mL
   IVF:
                                                                    878 mL
                                                                    514 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    218 mL
   Urine:
                                                                  1,520 mL
                                                                    218 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    335 mL
                                                                    723 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 370 (370 - 542) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 17 cmH2O
   Plateau: 23 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/41/85.[**Numeric Identifier 299**]/25/1
   Ve: 8.9 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : few)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   439 K/uL
   8.3 g/dL
   149 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   19 mg/dL
   104 mEq/L
   133 mEq/L
   26.3 %
   19.2 K/uL
        [image002.jpg]
                             [**2181-1-30**]  04:01 AM
                             [**2181-1-30**]  01:00 PM
                             [**2181-1-30**]  04:13 PM
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
                             [**2181-1-31**]  12:36 PM
                             [**2181-2-1**]  03:42 AM
                             [**2181-2-2**]  02:27 AM
                             [**2181-2-2**]  04:03 AM
                             [**2181-2-2**]  06:25 AM
   WBC
   15.8
   20.4
   19.2
   Hct
   28.1
   26.6
   26.3
   Plt
   293
   334
   439
   Cr
   0.9
   0.8
   0.9
   TCO2
   25
   23
   24
   23
   25
   28
   28
   Glucose
   122
   112
   149
   Other labs: PT / PTT / INR:13.1/35.9/1.1, Differential-Neuts:84.9 %,
   Lymph:6.7 %, Mono:6.1 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:215 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Imaging: CT Torso:
   1. Mildly decreased dense bilateral lower lobe consolidation, left
   greater
   than right, with scattered patchy opacities seen medially within the
   upper lobes. Interval increase in bilateral pleural effusions, now
   moderate.
   2. Prominence of the esophagus, which is diffusely filled with oral
   contrast
   material, consistent with extensive gastroesophageal reflux disease.
   Given the degree of contrast reflux into the esophagus, which is
   marked, the patient is felt to be a very high risk for aspiration.
   3. No acute inflammatory process or abnormal fluid collection is seen
   in the
   abdomen or pelvis. Mild perirenal edema bilaterally with trace free
   fluid.
   CT Sinus (per verbal report): Paranasal sinusitis bilaterally
   Microbiology: Sputum:
   [**2181-1-29**]: Culture with coag + staph
     Gram stain (-)
   [**2181-1-30**]: Culture preliminary negative, gram
      stain (-)
   Assessment and Plan
   This is a 53 year-old male with a history of hodkin's s/p BMT in 93,
   h/o pericarditis, hypothyroidism, admitted with influenza B now with
   worsening hypoxia and respiratory distress and CT concerning for
   multilobar PNA.
   1) Respiratory failure: Patient with hypoxic respiratory presumed due
   to infectious process/ ARDS.  Patient with known influenza and with
   PaO2/FiO2<200 he does meet criteria for ARDS.  Initial insult was most
   likely flu but given staph aureus in respiratory culture there is
   evidence for bacterial superinfection.  He is continuing to maintain
   good ventilation and adequate oxygenation on pressure support.
   Potentially concerning to allow ARDS patient off protocol due to
   ability to exceed low lung volumes but he seems more comfortable on PS
   and tidal volumes are relatively low (450-475) decreasing concern for
   barotrauma.
   - On day 5 of linezolid (or vanc), cefepime and oseltamavir.
   -F/U cultures
   - Continue oseltamavir for influenza B
   2) SIRS/ Hypotension/Fevers: This patient
s fever is not as concerning
   in and of itself given influenza can often cause persistent fever.
   Still, with persistent white count and his leukocytosis recurring it is
   very concerning that we are not adequately covering an infectious
   process.  Blood cultures remain negative and RUQ U/S not suggestive of
   choleycystitis.  Major concern now if for a drainable collection as his
   broad spectrum antibiotics should cover most common organisms.
   -Continue current antimicrobial regimen
   -CT scan of torso and sinuses looking for possible closed space
   infection and to better evaluate possible effusions vs atelectasis in
   lungs
   -Echo to evaluate for other causes of hypotension give patient has hx
   of pericarditis and could potentially have some restrictive pathology
   3) Hx of Hodgkin
s Lymphoma/pericardial disease: Particularly given
   current concern for effusion there is a possibility of post radiation
   serositis in the chest or possibility of effusion.
   -TTE per above
   4) Hypothyroidism: Continue home levothyroxine.
   5)  FEN:  NPO for now, given potential for prolonged intubation will
   initiate nutrtition consult to start tube feeds
   6)  Access: 2 PIVs; right IJ (pulled back yesterday and more
   appropriately sited on follow up scans)
   7)  PPx: hep sc, ppi as outpt
   8 Code: FULL (confirmed with patient)
   8)  Dispo: ICU until respiratory status improves
   9)  Comm: With wife
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2181-2-2**] 03:58 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin, LMW Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-02-02 11:12:00 Physician Attending Progress Note
Chief Complaint: ARDS
   SEPSIS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.1
F - [**2181-2-1**] 09:00 PM
   -Pressors weaned to off yesterday
   -Patient wtih A/C support overnight and return to PSV support this
   morning
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2181-1-30**] 08:56 PM
   Metronidazole - [**2181-1-31**] 12:20 PM
   Linezolid - [**2181-2-2**] 12:30 AM
   Cefipime - [**2181-2-2**] 09:53 AM
   Infusions:
   Fentanyl - 35 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-2**] 12:30 AM
   Midazolam (Versed) - [**2181-2-2**] 09:30 AM
   Fentanyl - [**2181-2-2**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Genitourinary: Foley
   Flowsheet Data as of  [**2181-2-2**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.3
   HR: 86 (75 - 117) bpm
   BP: 138/65(86) {85/46(60) - 198/111(140)} mmHg
   RR: 28 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 12 (12 - 332)mmHg
   Total In:
                                                                  1,855 mL
                                                                  1,265 mL
   PO:
   TF:
                                                                    917 mL
                                                                    514 mL
   IVF:
                                                                    878 mL
                                                                    661 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    378 mL
   Urine:
                                                                  1,520 mL
                                                                    378 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    335 mL
                                                                    887 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 400 (400 - 542) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 17 cmH2O
   Plateau: 23 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/41/85.[**Numeric Identifier 299**]/25/1
   Ve: 9.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   439 K/uL
   149 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   19 mg/dL
   104 mEq/L
   133 mEq/L
   26.3 %
   19.2 K/uL
        [image002.jpg]
                             [**2181-1-30**]  04:01 AM
                             [**2181-1-30**]  01:00 PM
                             [**2181-1-30**]  04:13 PM
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
                             [**2181-1-31**]  12:36 PM
                             [**2181-2-1**]  03:42 AM
                             [**2181-2-2**]  02:27 AM
                             [**2181-2-2**]  04:03 AM
                             [**2181-2-2**]  06:25 AM
   WBC
   15.8
   20.4
   19.2
   Hct
   28.1
   26.6
   26.3
   Plt
   293
   334
   439
   Cr
   0.9
   0.8
   0.9
   TCO2
   25
   23
   24
   23
   25
   28
   28
   Glucose
   122
   112
   149
   Other labs: PT / PTT / INR:13.1/35.9/1.1, ALT / AST:70/75, Alk Phos / T
   Bili:385/0.8, Amylase / Lipase:/13, Differential-Neuts:84.9 %,
   Lymph:6.7 %, Mono:6.1 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:176 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: AG-4
   Imaging: CT--Inrease in bilateral pleural effusions, no abdominal
   process to suggest focus of infection.
   CT Sinus---Mild thickening of Mucosa
   CXR-
   ETT at 8 cm above carina
   OGT past diaphragm
   CVL in good position
   Improved bilateral pleural effusions
   Microbiology: [**1-29**]-_Sputum-Staph
   [**1-30**]-GS--Pending
   Assessment and Plan
   53 yo male with admission with influenza and S. Aureus pnumonia
   complicated by ARDS and with persistent fevers at 7 days into course
   search for alternative sources has been extensive but unrevealing to
   date.  His bilateral effusions appear to have diminished slightly.  He
   has minimal sinusitis.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -Cefepime/Linezolid
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])-Concern for possible
   aspiration event and will need to confirm that ETT is in good position.
   -Advance ETT this morning 3 cm
   -Continue with A/C mode of support this morning
   -Maintain adequate PEEP
 SEPSIS WITHOUT ORGAN DYSFUNCTION-
   -Continue with Cefepime/Linezolid
   ICU Care
   Nutrition: NPO given concern for aspiration
with [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 4487**]
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  Wife updated in full in regards to plan for
   the day and the slight improvement from yesterday to today.
   Explanation of thoracentesis procedure provided in detail and timing
   for intervention with IP supervision today in the setting of difficult
   to identify safe pocket for thoracentesis.
   Code status: Full code
   Disposition :ICU
   Total time spent: 48 minutes
   Patient is critically ill

2181-02-03 10:40:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 THORACENTESIS - At [**2181-2-2**] 12:36 PM
 FEVER - 102.3
F - [**2181-2-2**] 04:00 PM
   500cc of fluid from right pleural space--exudative
   MSSA identified from sputum
   Recurrent hypotension and return to IV pressors required
   Rising WBC count seen
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2181-1-31**] 12:20 PM
   Linezolid - [**2181-2-2**] 12:35 PM
   Cefipime - [**2181-2-3**] 06:00 AM
   Nafcillin - [**2181-2-3**] 09:53 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-2-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2181-2-3**] 08:00 AM
   Midazolam (Versed) - [**2181-2-3**] 08:00 AM
   Fentanyl - [**2181-2-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2181-2-3**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.7
C (99.8
   HR: 83 (72 - 113) bpm
   BP: 94/54(67) {79/44(56) - 161/92(109)} mmHg
   RR: 21 (19 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 12 (11 - 23)mmHg
   Total In:
                                                                  2,076 mL
                                                                    477 mL
   PO:
   TF:
                                                                    514 mL
   IVF:
                                                                  1,383 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                    818 mL
                                                                    555 mL
   Urine:
                                                                    818 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,258 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: ///24/
   Ve: 12.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   509 K/uL
   118 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.9 mEq/L
   20 mg/dL
   100 mEq/L
   131 mEq/L
   24.7 %
   22.4 K/uL
        [image002.jpg]
                             [**2181-1-30**]  01:00 PM
                             [**2181-1-30**]  04:13 PM
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
                             [**2181-1-31**]  12:36 PM
                             [**2181-2-1**]  03:42 AM
                             [**2181-2-2**]  02:27 AM
                             [**2181-2-2**]  04:03 AM
                             [**2181-2-2**]  06:25 AM
                             [**2181-2-3**]  04:29 AM
   WBC
   15.8
   20.4
   19.2
   22.4
   Hct
   28.1
   26.6
   26.3
   24.7
   Plt
   293
   334
   439
   509
   Cr
   0.9
   0.8
   0.9
   0.8
   TCO2
   23
   24
   23
   25
   28
   28
   Glucose
   122
   112
   149
   118
   Other labs: PT / PTT / INR:13.0/29.8/1.1, ALT / AST:84/80, Alk Phos / T
   Bili:419/1.4, Amylase / Lipase:/13, Differential-Neuts:84.9 %,
   Lymph:6.7 %, Mono:6.1 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:193 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: PF-
   6900 WBC
   [**2171**] RBC
   pH-7.42
   Simple exudative effusion
   Imaging: CXR-ETT, CVL, OGT in good position.  He has bilateral patchy
   opacities which persist
   Assessment and Plan
   53 yo male with admission for febrile illness now seen with Influenza B
   and subsequent MSSA pneumonia.  In this setting patient has had
   continued high fever and recurrent hypotension with only pulmonary
   source of pneumonia identified despite look with CT scan, tap of
   effusion. He has likely continued and persistent left sided effusion.
   The source of fevers may well be continued SIRS in the setting of
   pneumonia as we have failed to find alternative source of infection.
   In the setting of influenza and S. Auresus PNA with associated ARDS
   does carry significant mortality.  Favorable here is patient has
   preserved organ function outside of original pulmonary insult.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP) with Influenza B-
   -Continue with naf/Cefepime
   -Appreciate ID input and will continue for 7 days Cefepime and 14 day
   course of NAF and continue Influenza Rx
   -Follow up pleaural fluid culture
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
Barriers to extubation do
   include persistent hypoxemia and high Ve requirement.
   -Continue with A/C Support
   -Wean FIO2 to 0.4
   -If successful will continue to wean PEEP to 5
   -Rx for PNA and lung protective ventilation to continue with A/C
   -Will follow left sided effusion and move to tap only if unable to wean
   FIO2 or PEEP
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -Cefepime
   -Nafcillin
   -CT scan not seen
   -Sinusitis
Afrin and Nasal Washing
   -Will recheck U/S if worsening seen and continue to trend
   Amylase/Lipase
   ICU Care
   Nutrition: Tube Feeds to continue only with post pyloric tube and will
   place today.  If unable will need PPN until placed
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes

2181-02-04 08:35:00 Physician Resident Progress Note
Chief Complaint: This is a 53 year-old male with a history of hodkin's
   s/p BMT in 93, h/o pericarditis, hypothyroidism, now with influenza B
   pneumonia, S. aureus superinfections, and ARDS.
   24 Hour Events:
 BLOOD CULTURED - At [**2181-2-3**] 10:03 PM
   2 sets of bld cx
 URINE CULTURE - At [**2181-2-3**] 10:03 PM
 STOOL CULTURE - At [**2181-2-4**] 02:45 AM
   - ID rec to d/c cefepime but keeping for now as pt not clinically
   improving
   -Tried to place doppoff but first ended up in lungs. In stomach on
   second try. Will monitor to see if it can move post pyloric over the
   next day or so to safely start tube feeds
   - Afrin and NS nasal washes started for 3 days duration
   - No new cx data
   -Attempted to wean FiO2 but unable and remains on 50%
   - blood and urine cx ordered around 10p for T 101
   - Pt coughing throughout day and intermittently bolused with sedatives.
   - Bolused 500cc in afternoon for low BP. Map again low 60's in evening
   [**1-29**] sedation.
   - PPN ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2181-2-2**] 12:35 PM
   Nafcillin - [**2181-2-4**] 04:04 AM
   Cefipime - [**2181-2-4**] 06:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2181-2-3**] 04:37 PM
   Fentanyl - [**2181-2-3**] 10:07 PM
   Heparin Sodium (Prophylaxis) - [**2181-2-4**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-4**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100.1
   HR: 75 (71 - 122) bpm
   BP: 93/54(67) {71/45(55) - 191/86(121)} mmHg
   RR: 21 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 11 (8 - 34)mmHg
   Total In:
                                                                  1,648 mL
                                                                  1,934 mL
   PO:
   TF:
   IVF:
                                                                  1,528 mL
                                                                  1,884 mL
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                    110 mL
   Urine:
                                                                  1,080 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    568 mL
                                                                  1,824 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 283 (283 - 283) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   Compliance: 34.8 cmH2O/mL
   SpO2: 98%
   ABG: ///24/
   Ve: 8.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   519 K/uL
   7.9 g/dL
   151 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   23 mg/dL
   103 mEq/L
   135 mEq/L
   24.9 %
   24.7 K/uL
        [image002.jpg]
                             [**2181-1-30**]  04:13 PM
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
                             [**2181-1-31**]  12:36 PM
                             [**2181-2-1**]  03:42 AM
                             [**2181-2-2**]  02:27 AM
                             [**2181-2-2**]  04:03 AM
                             [**2181-2-2**]  06:25 AM
                             [**2181-2-3**]  04:29 AM
                             [**2181-2-4**]  02:36 AM
   WBC
   15.8
   20.4
   19.2
   22.4
   24.7
   Hct
   28.1
   26.6
   26.3
   24.7
   24.9
   Plt
   293
   334
   439
   509
   519
   Cr
   0.9
   0.8
   0.9
   0.8
   1.0
   TCO2
   24
   23
   25
   28
   28
   Glucose
   122
   112
   149
   118
   151
   Other labs: PT / PTT / INR:13.0/29.8/1.1, ALT / AST:66/54, Alk Phos / T
   Bili:326/1.2, Amylase / Lipase:/13, Differential-Neuts:84.9 %,
   Lymph:6.7 %, Mono:6.1 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:170 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   This is a 53 year-old male with a history of hodkin's s/p BMT in 93,
   h/o pericarditis, hypothyroidism, now with influenza B pneumonia, S.
   aureus superinfections, and ARDS.
   1) Respiratory failure/Influenza Pneumonia with secondary bacterial
   pneumonia: The patient was initially intubated for hypoxic respiratory
   failure.  Has known influenza B as well as staph aureus in sputums
   presumably causing ARDS.  Ventilation and oxygenation stable on AC
   settings.   He is on day 7 of antimicrobial therapy with cefepime, he
   received six days of vancomycin/linezolid, he is on day six of
   oseltamavir.  His linezolid was stopped and nafcillin started after his
   staph was cultured as MSSA.  Thoracentesis showed exudative effusion
   and lung reexpansion after the procedure would suggest this is freely
   flowing.
   -F/U cultures
   - Continue oseltamavir through tomorrow as well as cefepime, discuss
   duration of nafcillin therapy in this very sick patient with ID who is
   following
   2) Leukocytosis/Fevers/Hypotension: Imaging failed to reveal a closed
   space infection or a drainable abcess.  The presumed etiology of his
   fevers is pneumonia and possibly sinusitis though this should be
   appropriately covered by his antibiotics.   Hypotension presumably due
   to continued SIRs driving process (active infection vs ARDS).
   -Afrin and saline nasal washes for sinus disease
   -Continue nafcillin/cefepime/oseltamavir pending culture data
   -F/U cultures and culture if spikes
   -F/U ID reccs
   3) Hx of Hodgkin
s Lymphoma/pericardial disease:  Echo failed to reveal
   a pericardial effusion.
   4) Hypothyroidism: Continue home levothyroxine.
   5)  FEN:  Pt with noted aspiration event yesterday, presumably due to
   history of irradiation, nevertheless he needs nutrition.  We will speak
   to GI re: post-pyloric feeding tube and start PPN in the interim.
   6)  Access: 2 PIVs; right IJ
   7)  PPx: hep sc, PPI
   8 Code: FULL (confirmed with patient)
   8)  Dispo: ICU until respiratory status improves
   9)  Comm: With wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-02-04 11:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2181-2-3**] 10:03 PM
   2 sets of bld cx
 URINE CULTURE - At [**2181-2-3**] 10:03 PM
 STOOL CULTURE - At [**2181-2-4**] 02:45 AM
   History obtained from Patient, Family / Friend
   Allergies:
   [**Name2 (NI) **] Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2181-2-2**] 12:35 PM
   Cefipime - [**2181-2-4**] 06:00 AM
   Nafcillin - [**2181-2-4**] 10:08 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2181-2-3**] 04:37 PM
   Fentanyl - [**2181-2-3**] 10:07 PM
   Heparin Sodium (Prophylaxis) - [**2181-2-4**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2181-2-4**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.1
C (98.8
   HR: 87 (71 - 122) bpm
   BP: 110/61(77) {71/45(55) - 191/86(121)} mmHg
   RR: 24 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   CVP: 13 (8 - 34)mmHg
   Total In:
                                                                  1,648 mL
                                                                  2,680 mL
   PO:
   TF:
   IVF:
                                                                  1,528 mL
                                                                  2,043 mL
   Blood products:
   Total out:
                                                                  1,080 mL
                                                                    390 mL
   Urine:
                                                                  1,080 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    568 mL
                                                                  2,290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 283 (283 - 283) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 94
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   Compliance: 34.8 cmH2O/mL
   SpO2: 98%
   ABG: ///24/
   Ve: 8.6 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   519 K/uL
   151 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   23 mg/dL
   103 mEq/L
   135 mEq/L
   24.9 %
   24.7 K/uL
        [image002.jpg]
                             [**2181-1-30**]  04:13 PM
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
                             [**2181-1-31**]  12:36 PM
                             [**2181-2-1**]  03:42 AM
                             [**2181-2-2**]  02:27 AM
                             [**2181-2-2**]  04:03 AM
                             [**2181-2-2**]  06:25 AM
                             [**2181-2-3**]  04:29 AM
                             [**2181-2-4**]  02:36 AM
   WBC
   15.8
   20.4
   19.2
   22.4
   24.7
   Hct
   28.1
   26.6
   26.3
   24.7
   24.9
   Plt
   293
   334
   439
   509
   519
   Cr
   0.9
   0.8
   0.9
   0.8
   1.0
   TCO2
   24
   23
   25
   28
   28
   Glucose
   122
   112
   149
   118
   151
   Other labs: PT / PTT / INR:13.0/29.8/1.1, ALT / AST:66/54, Alk Phos / T
   Bili:326/1.2, Amylase / Lipase:/13, Differential-Neuts:84.9 %,
   Lymph:6.7 %, Mono:6.1 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:170 IU/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR--ETT at 5cm, CVL in good position, OGT in stomach
   Assessment and Plan
   53 yo male admit with influenza B and MSSA superinfection with severe
   hypoxemic respiratory failure and ARDS.  He has had extensive
   evaluation for alternative source of infection and WBC count elevation
   but has been unrevealing to date.  In this setting have had continued
   elevation in WBC count but has been able to maintain pressure off
   pressors.
   1)Respiratory Failure-_Acute-
   -Will continue with A/C support and lung protective strategy for
   ventilation
   -Wean FIO2 as possible today
   -Maintain PEEP and only move to wean if able to maintain stable PO2 at
   decreased PEEP
   -Tamiflu
   2) PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)-
   -Nafcillin/Cefepime continuing
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
Concerning continued rise in WBC
   count.
   -C. Diff is of concern
   -Evidence of alternative source not clearly seen
   -Will need to consider ID input
   -Cefepime/Nafcillin/Taimflu continuing
   -CT for chest as concern for necrotizing abscess is of concern
   -If unrevealing would consider line changes as next intervention if
   persistent fever, leukocytosis seen
   -Will pre-hydrate with fluids and Mucomyst
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2181-2-4**] 07:45 AM 166 mL/hour
   today
we have OGT inplace and are looking for post pyloric feeding
   given significant risk of recurrent aspiration events.  If unable to
   achieve with placement and Reglan will have to ask IR for assistance in
   achieving adequate positioning
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2181-02-05 07:51:00 Physician Resident Progress Note
Chief Complaint: This is a 53 year-old male with a history of hodkin's
   s/p BMT in 93, h/o pericarditis, hypothyroidism, now with influenza B
   pneumonia, S. aureus superinfections, and ARDS.
   24 Hour Events:
 FEVER - 101.4
F - [**2181-2-4**] 04:00 PM
   [**2181-2-4**]
   -Weaned Fi02 from 50->40%
   -Prehydrated with sodium bicarb prior to CT though contrast ultimately
   not given
   -Chest CT wet read:  Evaluation for abscess limited in absence of IV
   contrast (unable to obtain peripheral access). However, there is no
   change in size of multiple regions of consolidation bilaterally.
   Further, there is no change in distribution and appearance of
   air-bronchograms that would suggest a change in the underlying
   consolidation, or the presence of a new space-occupying lesion.
   Persistent pleural effusions
   -RUQ U/S done
   -spoke to his wife about how mr. [**Known lastname **] was doing.  She was very
   anxious.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2181-2-2**] 12:35 PM
   Cefipime - [**2181-2-4**] 06:56 PM
   Nafcillin - [**2181-2-4**] 10:32 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-2-4**] 04:44 PM
   Fentanyl - [**2181-2-4**] 10:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-5**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.6
C (97.8
   HR: 88 (77 - 107) bpm
   BP: 118/58(76) {81/44(55) - 163/76(101)} mmHg
   RR: 24 (20 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 18 (10 - 24)mmHg
   Total In:
                                                                  5,336 mL
                                                                    499 mL
   PO:
   TF:
   IVF:
                                                                  3,176 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    620 mL
   Urine:
                                                                  1,400 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,936 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 652 (652 - 652) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 96%
   ABG: ///25/
   Ve: 9.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   623 K/uL
   7.7 g/dL
   131 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   23 mg/dL
   102 mEq/L
   134 mEq/L
   23.9 %
   25.6 K/uL
        [image002.jpg]
                             [**2181-1-31**]  03:59 AM
                             [**2181-1-31**]  07:11 AM
                             [**2181-1-31**]  12:36 PM
                             [**2181-2-1**]  03:42 AM
                             [**2181-2-2**]  02:27 AM
                             [**2181-2-2**]  04:03 AM
                             [**2181-2-2**]  06:25 AM
                             [**2181-2-3**]  04:29 AM
                             [**2181-2-4**]  02:36 AM
                             [**2181-2-5**]  04:17 AM
   WBC
   15.8
   20.4
   19.2
   22.4
   24.7
   25.6
   Hct
   28.1
   26.6
   26.3
   24.7
   24.9
   23.9
   Plt
   293
   334
   439
   [**Telephone/Fax (3) 4523**]
   Cr
   0.9
   0.8
   0.9
   0.8
   1.0
   0.8
   TCO2
   23
   25
   28
   28
   Glucose
   122
   112
   149
   118
   151
   131
   Other labs: PT / PTT / INR:12.4/27.0/1.0, ALT / AST:57/47, Alk Phos / T
   Bili:276/0.5, Amylase / Lipase:/13, Differential-Neuts:84.9 %,
   Lymph:6.7 %, Mono:6.1 %, Eos:2.1 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:184 IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 53 year-old male with a history of hodkin's s/p BMT in 93,
   h/o pericarditis, hypothyroidism, now with influenza B pneumonia and S.
   aureus superinfections.
   #) Hypoxic Respiratory failure:   He was initially intubated for
   hypoxic respiratory failure.  Has known influenza B as well as
   secondary bacterial pneumonia from staph aureus in sputum.  Ventilation
   and oxygenation stable on AC settings.   He is on day 8 of
   antimicrobial therapy with cefepime, he received six days of
   vancomycin/linezolid, he is on day seven of oseltamavir.  His linezolid
   was stopped and nafcillin started (now day 4) after his staph was
   cultured as MSSA.  Thoracentesis showed exudative effusion and lung
   re-expansion after the procedure, suggesting that it is freely
   flowing.    FiO2 40% from 50%.
   - Hypoxia appears more consistent with pneumonia/lobar consolidation
   instead of ARDS so will attempt PS today
   - Has completed course of oseltamavir
   - continue nafcillin but can d/c cefepime considering no clear source
   of GNR infection
   - F/U cultures
   - diuresis with lasix drip today to decrease total body fluid and
   maximize chance of successful extubation
   #) Sepsis:  Patient met SIRS criteria with fever and leukocytosis and
   also had known source of infection.  No longer requiring pressors.
   #) Leukocytosis: Imaging failed to reveal a closed space infection or a
   drainable abscess.  The presumed etiology of his fevers is pneumonia
   and possibly sinusitis vs cholecystitis, but no clear source on CT
   torso and sinus.  Repeated CT chest on [**2-5**] but no evidence of abscess
   on exam.
   - Afrin and saline nasal washes for sinus disease
   - Continue nafcillin
   - consider pulling central line, particularly if any blood cx are
   positive
   - F/U cultures and culture if spikes
   - F/U ID reccs
   #) Hx of Hodgkin
s Lymphoma/pericardial disease:  Echo failed to reveal
   a pericardial effusion.
   #) Hypothyroidism: Continue home levothyroxine.
   #)  FEN:  Pt with noted aspiration event on [**2181-1-27**], presumably due to
   history of irradiation and esophageal stricture.  Attempted to place
   Duboff in post-pyloric position but appears to remain in the stomach
   despite raglan and mechanical manipulation.  Will consult radiology
   regarding advancing tube.
   #)  Access: 2 PIVs; right IJ
   #)  PPx: hep sc, PPI
   #)  Dispo: ICU until respiratory status improves
   #)  Comm: With wife
   ICU [**Name (NI) 151**]
   Nutrition:
   TPN without Lipids - [**2181-2-4**] 06:54 PM 42 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: hep sc, PPI
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-02-06 07:55:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   Family meeting with Dr. [**Last Name (STitle) 1710**] and [**Doctor Last Name 749**] re: pt's course and
   prognosis.  Very helpful for wife to hear positive steps we are taking
   with him.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2181-2-5**] 08:30 AM
   Nafcillin - [**2181-2-5**] 04:23 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2181-2-5**] 03:22 PM
   Lansoprazole (Prevacid) - [**2181-2-6**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2181-2-6**] 07:44 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt denies Pain, nausea. States has some mild SOB
   Flowsheet Data as of  [**2181-2-6**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 88 (85 - 121) bpm
   BP: 95/70(80) {92/50(68) - 187/85(120)} mmHg
   RR: 19 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 8 (6 - 22)mmHg
   Total In:
                                                                  1,897 mL
                                                                    512 mL
   PO:
   TF:
   IVF:
                                                                    889 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  4,615 mL
                                                                  1,810 mL
   Urine:
                                                                  4,615 mL
                                                                  1,810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,718 mL
                                                                 -1,298 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 388 (347 - 453) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 74
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/40/76.[**Numeric Identifier 299**]/31/2
   Ve: 7.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   slight at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   714 K/uL
   7.8 g/dL
   144 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   17 mg/dL
   98 mEq/L
   136 mEq/L
   23.9 %
   26.7 K/uL
        [image002.jpg]
                             [**2181-1-31**]  12:36 PM
                             [**2181-2-1**]  03:42 AM
                             [**2181-2-2**]  02:27 AM
                             [**2181-2-2**]  04:03 AM
                             [**2181-2-2**]  06:25 AM
                             [**2181-2-3**]  04:29 AM
                             [**2181-2-4**]  02:36 AM
                             [**2181-2-5**]  04:17 AM
                             [**2181-2-5**]  12:05 PM
                             [**2181-2-6**]  03:05 AM
   WBC
   20.4
   19.2
   22.4
   24.7
   25.6
   26.7
   Hct
   26.6
   26.3
   24.7
   24.9
   23.9
   23.9
   Plt
   [**Telephone/Fax (3) 4549**]
   Cr
   0.8
   0.9
   0.8
   1.0
   0.8
   0.7
   TCO2
   25
   28
   28
   28
   Glucose
   112
   149
   118
   151
   131
   144
   Other labs: PT / PTT / INR:12.4/27.0/1.0, ALT / AST:49/44, Alk Phos / T
   Bili:251/0.5, Amylase / Lipase:/13, Differential-Neuts:87.6 %,
   Lymph:5.8 %, Mono:3.7 %, Eos:2.4 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:233 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   This is a 53 year-old male with a history of hodkin's s/p BMT in 93,
   h/o pericarditis, hypothyroidism, now with influenza B pneumonia and S.
   aureus superinfections.
   #) Hypoxic Respiratory failure:   He was initially intubated for
   hypoxic respiratory failure.  Has known influenza B as well as
   secondary bacterial pneumonia from staph aureus in sputum.  Ventilation
   and oxygenation stable on AC settings.   He is on day 8 of
   antimicrobial therapy with cefepime, he received six days of
   vancomycin/linezolid, he is on day seven of oseltamavir.  His linezolid
   was stopped and nafcillin started (now day 4) after his staph was
   cultured as MSSA.  Thoracentesis showed exudative effusion and lung
   re-expansion after the procedure, suggesting that it is freely
   flowing.    FiO2 40% from 50%.
   - Hypoxia appears more consistent with pneumonia/lobar consolidation
   instead of ARDS so will attempt PS today
   - Has completed course of oseltamavir
   - continue nafcillin but can d/c cefepime considering no clear source
   of GNR infection
   - F/U cultures
   - diuresis with lasix drip today to decrease total body fluid and
   maximize chance of successful extubation
   #) Sepsis:  Patient met SIRS criteria with fever and leukocytosis and
   also had known source of infection.  No longer requiring pressors.
   #) Leukocytosis: Imaging failed to reveal a closed space infection or a
   drainable abscess.  The presumed etiology of his fevers is pneumonia
   and possibly sinusitis vs cholecystitis, but no clear source on CT
   torso and sinus.  Repeated CT chest on [**2-5**] but no evidence of abscess
   on exam.
   - Afrin and saline nasal washes for sinus disease
   - Continue nafcillin
   - consider pulling central line, particularly if any blood cx are
   positive
   - F/U cultures and culture if spikes
   - F/U ID reccs
   #) Hx of Hodgkin
s Lymphoma/pericardial disease:  Echo failed to reveal
   a pericardial effusion.
   #) Hypothyroidism: Continue home levothyroxine.
   #)  FEN:  Pt with noted aspiration event on [**2181-1-27**], presumably due to
   history of irradiation and esophageal stricture.  Attempted to place
   Duboff in post-pyloric position but appears to remain in the stomach
   despite raglan and mechanical manipulation.  Will consult radiology
   regarding advancing tube.
   #)  Access: 2 PIVs; right IJ
   #)  PPx: hep sc, PPI
   #)  Dispo: ICU until respiratory status improves
   #)  Comm: With wife
   ICU [**Name (NI) 151**]
   Nutrition:
   TPN without Lipids - [**2181-2-5**] 06:42 PM 42 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2181-02-07 07:18:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   - [**Name (NI) 1324**] pt failed. ABG 7.52/41/64
   -resumed TF until midnight.
   -lasix gtt turned off in afternoon as CVP down to 4
   - diamox TID started
   -KCL repleted
   -TPN reordered
   -Afrin d/c'd
   -added cefepime to allergy list given rash
   - plan for extubation during rounds in am. Respiratory aware.
   History obtained from Patient
   Allergies:
   History obtained from PatientCefepime
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2181-2-5**] 08:30 AM
   Nafcillin - [**2181-2-7**] 04:15 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-2-6**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2181-2-6**] 03:46 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt very anxious having trouble breathing with ?
   muscous plug this am. Denies pain.
   Flowsheet Data as of  [**2181-2-7**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 104 (81 - 116) bpm
   BP: 148/70(98) {99/49(65) - 175/86(117)} mmHg
   RR: 22 (18 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 19 (4 - 19)mmHg
   Total In:
                                                                  2,153 mL
                                                                    522 mL
   PO:
   TF:
                                                                    150 mL
                                                                     13 mL
   IVF:
                                                                    979 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  6,100 mL
                                                                  1,255 mL
   Urine:
                                                                  6,100 mL
                                                                  1,255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,947 mL
                                                                   -733 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 711 (289 - 711) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 71
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.42/36/60/24/0
   Ve: 14.4 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Thin, Anxious
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, Tone: Normal
   Labs / Radiology
   781 K/uL
   7.9 g/dL
   128 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   20 mg/dL
   101 mEq/L
   133 mEq/L
   24.7 %
   23.6 K/uL
        [image002.jpg]
                             [**2181-2-3**]  04:29 AM
                             [**2181-2-4**]  02:36 AM
                             [**2181-2-5**]  04:17 AM
                             [**2181-2-5**]  12:05 PM
                             [**2181-2-6**]  03:05 AM
                             [**2181-2-6**]  08:23 AM
                             [**2181-2-6**]  12:58 PM
                             [**2181-2-6**]  04:13 PM
                             [**2181-2-7**]  02:50 AM
                             [**2181-2-7**]  06:12 AM
   WBC
   22.4
   24.7
   25.6
   26.7
   23.6
   Hct
   24.7
   24.9
   23.9
   23.9
   24.7
   Plt
   [**Telephone/Fax (3) **]14
   781
   Cr
   0.8
   1.0
   0.8
   0.7
   0.8
   0.8
   TCO2
   28
   31
   35
   24
   Glucose
   118
   151
   131
   144
   135
   128
   Other labs: PT / PTT / INR:12.9/37.3/1.1, ALT / AST:54/50, Alk Phos / T
   Bili:299/0.4, Amylase / Lipase:/13, Differential-Neuts:84.9 %,
   Lymph:9.0 %, Mono:3.4 %, Eos:2.3 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:233 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   This is a 53 year-old male with a history of hodkin's s/p BMT in 93,
   h/o pericarditis, hypothyroidism, now with influenza B pneumonia and S.
   aureus superinfections.
   #) Hypoxic Respiratory failure:   He was initially intubated for
   hypoxic respiratory failure.  Has known influenza B as well as
   secondary bacterial pneumonia from staph aureus in sputum.  s/p 7 D
   tamiflu tx. Cefepime (d/c [**2-5**])/linezolid used originally. Linezolid
   changed to  Nafcillin when MSSA grew [**2-2**] .   Thoracentesis [**2-1**] showed
   exudative effusion and lung re-expansion after the procedure,
   suggesting that it is freely flowing.    FiO2 40%[**2-6**] and on PS 5/5 but
   blood gas this noon 7.52/41/64.  This am, did well on [**Month/Year (2) 1324**] (although had
   some mucous plugging around 7a).
   - Has completed course of oseltamavir
   - continue nafcillin day 6 today- plan for 14 D course
   - F/U cultures
   - extubate this am. Will start Incentive spirometry
   -monitor diuresis and consider bolus lasix PRN. D/c diamox
   -will need speech and swallow eval but will hold off until tomorrow
   -of note, since pt has been on fent/versed for sedation for >1wk, may
   have benzo withdrawl. Will consided valium or versed PRN
   #) Sepsis:  Patient met SIRS criteria with fever and leukocytosis and
   also had known source of infection.  No longer requiring pressors.
   #) Leukocytosis: Imaging  failed to reveal a closed space infection or
   a drainable abscess.  The presumed etiology of his fevers is pneumonia
   and possibly sinusitis vs cholecystitis, but no clear source on CT
   torso and sinus.  Repeated CT chest on [**2-4**] but no evidence of abscess
   on exam.
   - Afrin 3 D course finished [**2-6**]. Cont saline nasal washes for sinus
   disease
   - Continue nafcillin for 14 D course
   - consider pulling central line if any blood cx are positive. Keep now
   for TPN. If stable tomorrow, will likely pull CVL.
   - F/U cultures and culture if spikes
   - F/U ID recs- they rec thoracentesis but do not think this is
   medically necessary for now.
   #) Hx of Hodgkin
s Lymphoma/pericardial disease:  Echo [**2-2**] failed to
   reveal a pericardial effusion.
    #) Hypothyroidism: Continue home levothyroxine.
   #)  FEN:  Pt with noted aspiration event on [**2181-1-27**], presumably due to
   history of irradiation and esophageal stricture.  Has Doppoff in place
   now. Will restart TF today after extubation. Cont TPN for today
   #)  Access: 2 PIVs; right IJ
   #)  PPx: hep sc, PPI
   #)  Dispo: ICU for now
   #)  Comm: With wife
   ICU [**Name (NI) 151**]
   Nutrition:
   TPN without Lipids - [**2181-2-6**] 06:01 PM 42 mL/hour
   Restart TF today after extubation
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Arterial Line - [**2181-1-29**] 09:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2181-02-08 07:49:00 Physician Resident Progress Note
Chief Complaint: PNA, s/p resp failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2181-2-7**] 10:10 AM
 ARTERIAL LINE - STOP [**2181-2-7**] 04:00 PM
   -extubated in a.m. and did well
   -was c/o nausea intermittently -> concerning for opiate or benzo
   withdrawal so received boluses of ativan 1mg iv and fentanyl 25-50 mcg
   iv prn.
   Allergies:
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2181-2-5**] 08:30 AM
   Nafcillin - [**2181-2-8**] 04:32 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2181-2-7**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2181-2-8**] 12:00 AM
   Lorazepam (Ativan) - [**2181-2-8**] 01:30 AM
   Fentanyl - [**2181-2-8**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-2-8**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.9
C (96.7
   HR: 94 (91 - 114) bpm
   BP: 116/58(72) {105/55(67) - 144/69(87)} mmHg
   RR: 24 (14 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 16 (12 - 18)mmHg
   Total In:
                                                                  1,308 mL
                                                                    288 mL
   PO:
   TF:
                                                                     13 mL
   IVF:
                                                                    547 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  5,035 mL
                                                                  1,100 mL
   Urine:
                                                                  5,035 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,727 mL
                                                                   -813 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 730 (730 - 730) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 96%
   ABG: ///23/
   Ve: 12.1 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : L
   >R base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   896 K/uL
   7.7 g/dL
   115 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.5 mEq/L
   21 mg/dL
   103 mEq/L
   136 mEq/L
   24.5 %
   22.0 K/uL
        [image002.jpg]
                             [**2181-2-4**]  02:36 AM
                             [**2181-2-5**]  04:17 AM
                             [**2181-2-5**]  12:05 PM
                             [**2181-2-6**]  03:05 AM
                             [**2181-2-6**]  08:23 AM
                             [**2181-2-6**]  12:58 PM
                             [**2181-2-6**]  04:13 PM
                             [**2181-2-7**]  02:50 AM
                             [**2181-2-7**]  06:12 AM
                             [**2181-2-8**]  04:20 AM
   WBC
   24.7
   25.6
   26.7
   23.6
   22.0
   Hct
   24.9
   23.9
   23.9
   24.7
   24.5
   Plt
   [**Telephone/Fax (3) 4620**]81
   896
   Cr
   1.0
   0.8
   0.7
   0.8
   0.8
   TCO2
   28
   31
   35
   24
   Glucose
   151
   131
   144
   135
   128
   115
   Other labs: PT / PTT / INR:12.9/37.3/1.1, ALT / AST:46/39, Alk Phos / T
   Bili:282/0.6, Amylase / Lipase:/13, Differential-Neuts:84.9 %,
   Lymph:9.0 %, Mono:3.4 %, Eos:2.3 %, Lactic Acid:0.9 mmol/L, Albumin:2.4
   g/dL, LDH:223 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   This is a 53 year-old male with a history of hodkin's s/p BMT in 93,
   h/o pericarditis, hypothyroidism, now with influenza B pneumonia and S.
   aureus superinfections.
   #) Hypoxic Respiratory failure:   He was initially intubated for
   hypoxic respiratory failure.  Has known influenza B as well as
   secondary bacterial pneumonia from staph aureus in sputum.  s/p 7 D
   tamiflu tx. Cefepime (d/c [**2-5**])/linezolid used originally. Linezolid
   changed to  Nafcillin when MSSA grew [**2-2**] .   Thoracentesis [**2-1**] showed
   exudative effusion and lung re-expansion after the procedure,
   suggesting that it is freely flowing.    FiO2 40%[**2-6**] and on PS 5/5 but
   blood gas this noon 7.52/41/64.  This am, did well on SBT (although had
   some mucous plugging around 7a).
   - Has completed course of oseltamavir
   - continue nafcillin day 6 today- plan for 14 D course
   - F/U cultures
   - extubate this am. Will start Incentive spirometry
   -monitor diuresis and consider bolus lasix PRN. D/c diamox
   -will need speech and swallow eval but will hold off until tomorrow
   -of note, since pt has been on fent/versed for sedation for >1wk, may
   have benzo withdrawl. Will consided valium or versed PRN
   #) Sepsis:  Patient met SIRS criteria with fever and leukocytosis and
   also had known source of infection.  No longer requiring pressors.
   #) Leukocytosis: Imaging  failed to reveal a closed space infection or
   a drainable abscess.  The presumed etiology of his fevers is pneumonia
   and possibly sinusitis vs cholecystitis, but no clear source on CT
   torso and sinus.  Repeated CT chest on [**2-4**] but no evidence of abscess
   on exam.
   - Afrin 3 D course finished [**2-6**]. Cont saline nasal washes for sinus
   disease
   - Continue nafcillin for 14 D course
   - consider pulling central line if any blood cx are positive. Keep now
   for TPN. If stable tomorrow, will likely pull CVL.
   - F/U cultures and culture if spikes
   - F/U ID recs- they rec thoracentesis but do not think this is
   medically necessary for now.
   #) Hx of Hodgkin
s Lymphoma/pericardial disease:  Echo [**2-2**] failed to
   reveal a pericardial effusion.
    #) Hypothyroidism: Continue home levothyroxine.
   #)  FEN:  Pt with noted aspiration event on [**2181-1-27**], presumably due to
   history of irradiation and esophageal stricture.  Has Doppoff in place
   now. Will restart TF today after extubation. Cont TPN for today
   #)  Access: 2 PIVs; right IJ
   #)  PPx: hep sc, PPI
   #)  Dispo: ICU for now
   #)  Comm: With wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2181-1-29**] 09:05 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2181-02-09 07:24:00 Physician Resident Progress Note
Chief Complaint: s/p resp failure
   24 Hour Events:
 PICC LINE - START [**2181-2-8**] 09:29 PM
 MULTI LUMEN - STOP [**2181-2-9**] 06:00 AM
   -PICC placed and IJ d'c'd
   -KUB checked to evaluate dobhoff
   -speech and swallow bedside eval passed with pt cleared to take thin
   liquids and MOIST soft solids.
   History obtained from Patient
   Allergies:
   History obtained from PatientCefepime
   Rash;
   Last dose of Antibiotics:
   Nafcillin - [**2181-2-9**] 04:55 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-2-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2181-2-8**] 03:42 PM
   Lorazepam (Ativan) - [**2181-2-9**] 01:10 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain, SOB, CP, HA, abd pain. States
   occassional nausea. Tolerated dinner last night well.
   Flowsheet Data as of  [**2181-2-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 93 (92 - 109) bpm
   BP: 123/67(81) {112/55(72) - 160/73(94)} mmHg
   RR: 26 (22 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 14 (11 - 15)mmHg
   Total In:
                                                                  1,693 mL
                                                                    243 mL
   PO:
                                                                    960 mL
   TF:
                                                                     83 mL
                                                                     72 mL
   IVF:
                                                                    590 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  3,330 mL
                                                                    800 mL
   Urine:
                                                                  3,330 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,637 mL
                                                                   -557 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.48/31/74/23/0
   Physical Examination
   General Appearance: No acute distress, Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at left base )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   948 K/uL
   8.2 g/dL
   113 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.2 mEq/L
   17 mg/dL
   105 mEq/L
   136 mEq/L
   25.3 %
   20.4 K/uL
        [image002.jpg]
                             [**2181-2-5**]  12:05 PM
                             [**2181-2-6**]  03:05 AM
                             [**2181-2-6**]  08:23 AM
                             [**2181-2-6**]  12:58 PM
                             [**2181-2-6**]  04:13 PM
                             [**2181-2-7**]  02:50 AM
                             [**2181-2-7**]  06:12 AM
                             [**2181-2-8**]  04:20 AM
                             [**2181-2-8**]  08:09 AM
                             [**2181-2-9**]  03:27 AM
   WBC
   26.7
   23.6
   22.0
   20.4
   Hct
   23.9
   24.7
   24.5
   25.3
   Plt
   [**Telephone/Fax (3) 4640**]48
   Cr
   0.7
   0.8
   0.8
   1.0
   TCO2
   28
   31
   35
   24
   24
   Glucose
   144
   135
   128
   115
   113
   Other labs: PT / PTT / INR:12.9/37.3/1.1, ALT / AST:51/41, Alk Phos / T
   Bili:281/0.5, Amylase / Lipase:/13, Differential-Neuts:80.8 %,
   Lymph:11.6 %, Mono:4.4 %, Eos:2.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.4 g/dL, LDH:262 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   This is a 53 year-old male with a history of hodkin's s/p BMT in 93,
   h/o pericarditis, hypothyroidism, now with influenza B pneumonia and S.
   aureus superinfections.
   #) Hypoxic Respiratory failure:   He was initially intubated for
   hypoxic respiratory failure.  Has known influenza B as well as
   secondary bacterial pneumonia from staph aureus in sputum.  s/p 7 D
   tamiflu tx. Cefepime (d/c [**2-5**])/linezolid used originally. Linezolid
   changed to  Nafcillin when MSSA grew [**2-2**] .   Thoracentesis [**2-1**] showed
   exudative effusion and lung re-expansion after the procedure,
   suggesting that it is freely flowing.    Successfully extubated [**2-7**]
   - Has completed course of oseltamavir
   - continue nafcillin - plan for 21 D course today abx from  when
   linezolid was started [**1-29**]
   -monitor diuresis and consider bolus lasix PRN.
   - speech and swallow eval today
   -may have benzo or narc withdrawl- nausea may be sx of this. Will
   consider fentanyl or ativan PRN
   -Incentive spirometry,
   -PT today and OOB to chair
    #) Sepsis:  Patient met SIRS criteria with fever and leukocytosis and
   also had known source of infection.  No longer requiring pressors.
   #) Leukocytosis: Imaging  failed to reveal a closed space infection or
   a drainable abscess.  The presumed etiology of his fevers is pneumonia
   and possibly sinusitis vs cholecystitis, but no clear source on CT
   torso and sinus.  Repeated CT chest on [**2-4**] but no evidence of abscess
   on exam. WBC now trending down to 22
   - Afrin 3 D course finished [**2-6**]. Cont saline nasal washes for sinus
   disease
   - Continue nafcillin for 21 D course
   -pull CVL today if can get PICC
   -  F/U ID recs
   #) Hx of Hodgkin
s Lymphoma/pericardial disease:  Echo [**2-2**] failed to
   reveal a pericardial effusion.
    #) Hypothyroidism: Continue home levothyroxine.
   #)  FEN:  Pt with noted aspiration event on [**2181-1-27**], presumably due to
   history of irradiation and esophageal stricture.  Has Doppoff in place
   now. Getting s/s today. If passes, d/c TF
   #)  Access: 2 PIVs; right IJ
 trying to get PICC today
   #)  PPx: hep sc, PPI
   #)  Dispo: ICU for now- consider PM c/o
   #)  Comm: With wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2181-2-8**] 03:42 PM 10 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2181-2-8**] 09:29 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor